US03952010
3,5-Diphenyl-2-pyrazoline (21.9 parts) is dissolved in ethylene dichloride (75 parts by volume). There is next added 5% palladium on carbon catalyst (4 parts containing 40% water) is added and the mixture is heated at reflux for 8 hours. There is obtained 3,5-diphenylpyrazole in a 79.3% yield whose melting point ranges from 196°C. to 200°C.

reactant | 3,5-Diphenyl-2-pyrazoline | C1(=CC=CC=C1)C1=NNC(C1)C1=CC=CC=C1 | C15H14N2
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
catalyst | palladium on carbon | [Pd] | Pd
product | 3,5-diphenylpyrazole | 79.3% yield | C1(=CC=CC=C1)C1=NNC(=C1)C1=CC=CC=C1 | C15H12N2
